* C:\Users\kr315\Desktop\dev\analog\spice-sim\3phase-rectifier.asc
V1 N002 0 SINE(0 230 50 0 0 0) AC 230 0
V2 N003 0 SINE(0 230 50 0 0 120) AC 230 120
V3 N004 0 SINE(0 230 50 0 0 240) AC 230 240
D1 N002 N001 D
D2 N003 N001 D
D3 N004 N001 D
D4 N005 N002 D
D5 N005 N003 D
D6 N005 N004 D
R1 N001 N005 10
C1 N001 N005 470µ
.model D D
.lib C:\Users\kr315\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1 0 100
.backanno
.end
